US08283354B2
To a solution of 2-(6-fluoro-4-(piperazin-1-yl)quinazolin-2-yl)phenol (200 mg, 0.61 mmol) in CH2Cl2 (5 mL) was added triethylamine (170 μL, 1.22 mmol) followed by the addition of (R)-2-hydroxy-4,4-dimethylpentanoic acid (116 mg, 0.79 mmol), then HATU (301 mg, 0.79 mmol). An additional 3 mL of CH2Cl2 were added, and the reaction was stirred for 3 h. After quenching with water, the mixture was extracted twice with CH2Cl2. The organic phase was dried over MgSO4 and concentrated. Purification via silica gel chromatography using 0-10% EtOAc in 50:50 CH2Cl2:hexanes yielded (R)-1-(4-(6-fluoro-2-(2-hydroxyphenyl)quinazolin-4-yl)piperazin-1-yl)-2-hydroxy-4,4-dimethylpentan-1-one (240 mg, 86%). m/z: M+1 obs=453.5; tR=3.19 minutes 1H NMR (400 MHz, DMSO-d6) δ 8.46 (m, 1H), 8.01 (m, 1H), 7.84 (m, 2H), 7.40 (m, 1H), 6.96 (m, 2H), 4.89 (d, J=7.1 Hz, 1H), 4.45 (m, 1H), 3.97 (m, 4H), 3.76 (m, 4H), 1.56 (m, 1H), 1.42 (m, 1H), 0.97 (s, 9H).

reactant | 2-(6-fluoro-4-(piperazin-1-yl)quinazolin-2-yl)phenol | 0.61 mmol, 200 mg | FC=1C=C2C(=NC(=NC2=CC1)C1=C(C=CC=C1)O)N1CCNCC1 | C18H17FN4O
reactant | triethylamine | 1.22 mmol, 170 μL | C(C)N(CC)CC | C6H15N
reactant | (R)-2-hydroxy-4,4-dimethylpentanoic acid | 0.79 mmol, 116 mg | O[C@@H](C(=O)O)CC(C)(C)C | C7H14O3
reactant | HATU | 0.79 mmol, 301 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | (R)-1-(4-(6-fluoro-2-(2-hydroxyphenyl)quinazolin-4-yl)piperazin-1-yl)-2-hydroxy-4,4-dimethylpentan-1-one | 240 mg, 86% | FC=1C=C2C(=NC(=NC2=CC1)C1=C(C=CC=C1)O)N1CCN(CC1)C([C@@H](CC(C)(C)C)O)=O | C25H29FN4O3
